US07414060B2
6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide
The title compound, was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide in accordance with the general method of example 20 using 5-bromopyrimidine instead of 3-Bromopyridine to yield the final compound as a beige solid, MS (ISP): m/e=321.0 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC=C1N)C | C13H14N4O
reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
product | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C | C17H16N6O
